US04567172
21-Acetoxy-11β-hydroxy-17α-methoxyacetoxy-6α-methyl-1,4-pregnadiene-3,20-dione
In 4 ml of methylene chloride was dissolved 223 mg of 11β,21-dihydroxy-17α-methoxyacetoxy-6α-methyl-1,4-pregnadiene-3,20-dione obtained according to the method as described in Example 32. To this solution were added 404 mg of triethylamine and 204 mg of acetic anhydride, and the mixture was stirred for 5 hours at room temperature. The reaction mixture was then treated in the same manner as described in Example 7 whereby 186 mg (yield: 76.2%) of the title compound was obtained as colorless needle crystals.

reactant | 11β,21-dihydroxy-17α-methoxyacetoxy-6α-methyl-1,4-pregnadiene-3,20-dione | 223 mg | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)OC(COC)=O)C)=O)C | C25H34O7
reactant | triethylamine | 404 mg | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 204 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 21-Acetoxy-11β-hydroxy-17α-methoxyacetoxy-6α-methyl-1,4-pregnadiene-3,20-dione | 186 mg, yield: 76.2% | C(C)(=O)OCC([C@]1(CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C)OC(COC)=O)=O | C27H36O8
